US06821967B2
d. 9-{4-[4-(8-ethoxy-naphthalen-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
A suspension of 0.5 g (1.17 mmol) of 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide, 0.3 g (1.17 mmol) of 1-(8-ethoxy-naphthalen-2-yl)-piperazine and 1 g (7 mmol) of potassium carbonate in 50 ml of dimethylformamide is stirred for 14 hours at 90° C. The reaction mixture is poured onto water and the precipitate is filtered off. The product is purified by column chromatography on silica gel (eluant: cyclohexane/ethyl acetate=3:2).

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | 1.17 mmol, 0.5 g | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 1-(8-ethoxy-naphthalen-2-yl)-piperazine | 1.17 mmol, 0.3 g | C(C)OC=1C=CC=C2C=CC(=CC12)N1CCNCC1 | C16H20N2O
reactant | potassium carbonate | 7 mmol, 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 9-{4-[4-(8-ethoxy-naphthalen-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=CC2=C(C=CC=C2C=C1)OCC)(F)F | C36H38F3N3O2
